US04707481
Example 3: 6-(3-methoxy-4-n-propoxyphenyl)-3[2H]pyridazinone
10.6 g of 3-(3-methoxy-4-n-propoxybenzoyl)acrylic acid and 6.1 g of potassium carbonate are dissolved in 100 ml of methanol and the solution is stirred overnight at room temperature. It is acidified with 7.4 ml of concentrated hydrochloric acid, 2.2 g of 100% pure hydrazine hydrate are added to the mixture and the mixture is boiled under reflux for 3 hours. It is then acidified to pH 1 with 1 ml of hydrochloric acid and 75 ml of methanol are distilled off in the course of 2 hours. The mixture is allowed to cool and the crystal mass is filtered off with suction, suspended several times in 50 ml of water each time, filtered off with suction and, finally, dried in vacuo. 6.6 g (63.7% of theory) of the title compound of m.p. 169°-171° are obtained. After recrystallization from ethanol/ethyl acetate, the m.p. rises to 172°.

reactant | 3-(3-methoxy-4-n-propoxybenzoyl)acrylic acid | 10.6 g | COC=1C=C(C(=O)C=CC(=O)O)C=CC1OCCC | C14H16O5
reactant | potassium carbonate | 6.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 7.4 ml | Cl | ClH
reactant | hydrazine hydrate | 2.2 g | O.NN
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 75 ml | CO | CH4O
product | 6-(3-methoxy-4-n-propoxyphenyl)-3[2H]pyridazinone | COC=1C=C(C=CC1OCCC)C=1C=CC(NN1)=O | C14H16N2O3
